US07576103B2
6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-ol (1.2 g, 4.16 mmol) was dissolved in 60 mL of dry DMF, and the reaction mixture was cooled in an ice bath. Sodium hydride (0.2 g of 60% solid in oil, washed with hexanes) was added, and the reaction mixture was stirred under nitrogen for 20 minutes. Ethyl bromoacetate (0.55 mL) was added dropwise, and stirring was continued for three hours, during which time the reaction mixture was allowed to warm to room temperature. Water (250 mL) was added to the reaction mixture, and the aqueous mixture was extracted twice with 150 mL of EtOAc. The combined organic layers were washed with water, brine, dried over MgSO4, and the solvent was removed under reduced pressure to yield an oil which was eluted through silica gel under medium pressure with 4:1 EtOAc/hexanes. Removal of solvent under reduced pressure afforded 0.75 g (2.0 mmol, 48%) of (6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yloxy)-acetic acid ethyl ester as an oil. MS: 375 (M+H)+.

reactant | 6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-ol | 4.16 mmol, 1.2 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)O | C16H16O3S
reactant | Sodium hydride | 0.2 g | [H-].[Na+]
reactant | Ethyl bromoacetate | 0.55 mL | BrCC(=O)OCC | C4H7BrO2
reactant | Water | 250 mL | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | (6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yloxy)-acetic acid ethyl ester | 2.0 mmol, 0.75 g, 48% | C(C)OC(COC1CCCC2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)=O | C20H22O5S
